US06297260B1
44d. 3-Bromo-1-(1,1,2,2-tetramethyl-1-silapropoxy)propane
Imidazole (0.52 g, 7.6 mmol) and t-butyldimethylchlorosilane (5.80 g, 38 mmol) were added successively to a solution of 1-bromo-3-propanol (5.35 g, 38 mmol) in dry THF (10 mL) at room temperature. The resulting suspension was stirred at room temperature for 20 hours. EtOAc (25 mL) was added. The solution was washed with water, dried over Na2SO4, filtered and concentrated in vacuo at room temperature. The residue was chromatographed on silica gel eluting with 1:10 EtOAc:Hex to give the title compound 2.1 g (22%) as a colorless volatile liquid. 1H NMR (300 MHz, CDCl3) δ 3.74 (t, J=5.7 Hz, 2H), 3.52 (t, J=6.5 Hz, 2H), 2.02-2.06 (mult, 2H), 0.90 (s, 9H), 0.07 (s, 6H); 13C NMR (75 MHz, CDCl3) δ 60.6, 35.7, 30.8, 26.1, −5.2.

reactant | Imidazole | 7.6 mmol, 0.52 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 38 mmol, 5.80 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 1-bromo-3-propanol | 38 mmol, 5.35 g | BrCCCO | C3H7BrO
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Bromo-1-(1,1,2,2-tetramethyl-1-silapropoxy)propane | 2.1 g, 22% | BrCCCO[Si](C(C)(C)C)(C)C | C9H21BrOSi
